US05523458
Synthesis of (2S,3S,5S)-2-(N,N-dibenzylamino)-5-acetylamino- 1,6-diphenyl-3-hexanol
(2S,5S)-2-(N,N-Dibenzylamino)-5-acetylamino-1,6-diphenyl-3-hexanone (3.0 g, 5.944 mmol) was dissolved in methanol (15 ml). Sodium borohydride (1.80 g, 23.78 mmol) was slowly added to the resultant solution while chilling with ice water so as not to raise the temperature above 10° C., thereby conducting reaction. The reaction mixture was stirred at room temperature for 5 hours. To the reaction mixture, was added a 10% hydrochloric acid (10 ml) while chilling with ice water. After bubbling ceased, the mixture was extracted with ethyl acetate (50 ml). The extract was washed with an aqueous sodium chloride and dried over sodium sulfate. The solvent was distilled off, and the resulting crude product was recrystallized from a mixed solvent of ethyl acetate (1.5 ml) and n-hexane (6 ml), thereby obtaining the title compound (2.70 g, 86.1%) as colorless crystals.

reactant | (2S,5S)-2-(N,N-Dibenzylamino)-5-acetylamino-1,6-diphenyl-3-hexanone | 5.944 mmol, 3.0 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)C(C[C@H](CC1=CC=CC=C1)NC(C)=O)=O | C34H36N2O2
reactant | Sodium borohydride | 23.78 mmol, 1.80 g | [BH4-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | (2S,3S,5S)-2-(N,N-dibenzylamino)-5-acetylamino- 1,6-diphenyl-3-hexanol | 2.70 g, 86.1% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(C)=O)O | C34H38N2O2
